US06323174B1
Synthesis of 4-vinyl-8-methyl-1,7-nonadienyl pivalate
23.7 mg (0.055 mmol) of (N-2-aminomethyl-p-toluenesulfonamide)(η6-benzene)ruthenium (II) chloride obtained in the Reference Example 4 and 17.5 mg (0.068 mmol) of silver triflate were mixed in 2 ml of methanol, to which were added 2 ml (purity: 78%, 1.25 g, 9.2 mmol) of myrcene and 1.73 g (13 mmol) of vinyl pivalate. The mixture was stirred at 70° C. for 6 hours. The reaction mixture was diluted with water and the organic layer was analyzed by gas chromatography to confirm that the title compound (addition product) having a purity of 76% (regioisomer: 26%) was produced at a conversion rate of 17%.

reactant | myrcene | 9.2 mmol, 2 ml, 1.25 g | CC(=CCCC(=C)C=C)C | C10H16
reactant | vinyl pivalate | 13 mmol, 1.73 g | C(C(C)(C)C)(=O)OC=C | C7H12O2
solvent | methanol | 2 ml | CO | CH4O
solvent | water | O | H2O
product | 4-vinyl-8-methyl-1,7-nonadienyl pivalate | C(C(C)(C)C)(=O)OC=CCC(CCC=C(C)C)C=C | C17H28O2
